US07262212B2
2-Chloro-4-nitro-1H-imidazole (1 g, 6.78 mmol) and (R)-(−)-glycidyl tosylate (1.7 g, 7.45 mmol) were dissolved in tetrahydrofuran (THF) (10 ml), sodium hydrogencarbonate (600 mg, 7.14 mmol) was added to the solution, and the resulting mixture was stirred under reflux for 11 hours. The reaction mixture was concentrated under reduced pressure, water was added to the solution, and the resulting mixture was extracted with ethyl acetate. The organic phase was washed with water and a saturated saline solution in this order, dried over sodium sulfate, and filtered. The filtrate was concentrated, and the residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=1/1) to afford (R)-2-chloro-4-nitro-1-(oxiran-2-ylmethyl)imidazole (1.45 g, yield 57%) as a light yellow oil.

reactant | 2-Chloro-4-nitro-1H-imidazole | 6.78 mmol, 1 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | (R)-(−)-glycidyl tosylate | 7.45 mmol, 1.7 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C(C)C=C1 | C10H12O4S
reactant | sodium hydrogencarbonate | 7.14 mmol, 600 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (R)-2-chloro-4-nitro-1-(oxiran-2-ylmethyl)imidazole | 1.45 g, yield 57% | ClC=1N(C=C(N1)[N+](=O)[O-])C[C@H]1OC1 | C6H6ClN3O3
